US07557114B2
(c) 4-Iodo-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A2(c) from 4-Iodo-2-trityl-2,3-dihydro-1H-isoindole and trifluoroacetic acid. Light yellow solid.

reactant | 4-Iodo-2-trityl-2,3-dihydro-1H-isoindole | IC1=C2CN(CC2=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22IN
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Iodo-2,3-dihydro-1H-isoindole | IC1=C2CNCC2=CC=C1 | C8H8IN
